US08304436B2
Step 2: 1-[2-(4-{3-[3-(benzyloxy)-4-methoxyphenyl]-4,4-dimethyl-5-oxo-4,5-dihydro-1H-pyrazol-1-yl}-piperidin-1-yl)-2-oxoethyl]pyrrolidine-2,5-dione
Prepared analogously as described for example 1 using 5-[3-(benzyloxy)-4-methoxyphenyl]-2-[1-(chloroacetyl)piperidin-4-yl]-4,4-dimethyl-2,4-dihydro-3H-pyrazol-3-one (see below) and succinimide as starting compounds.

reactant | 5-[3-(benzyloxy)-4-methoxyphenyl]-2-[1-(chloroacetyl)piperidin-4-yl]-4,4-dimethyl-2,4-dihydro-3H-pyrazol-3-one | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)C=1C(C(N(N1)C1CCN(CC1)C(CCl)=O)=O)(C)C | C26H30ClN3O4
reactant | succinimide | C1(CCC(N1)=O)=O | C4H5NO2
product | 1-[2-(4-{3-[3-(benzyloxy)-4-methoxyphenyl]-4,4-dimethyl-5-oxo-4,5-dihydro-1H-pyrazol-1-yl}-piperidin-1-yl)-2-oxoethyl]pyrrolidine-2,5-dione | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)C1=NN(C(C1(C)C)=O)C1CCN(CC1)C(CN1C(CCC1=O)=O)=O | C30H34N4O6
